US07981874B2
Diisopropyl-p-tolyl-phosphane.
To a solution of diisopropylchlorophosphine (2 mL, 12.57 mmol) in THF (25 mL) at −78° C. was added 4-tolylmagnesium bromide (12.57 mL, 12.57 mmol) dropwise. After 1 h at −78° C., the reaction mixture was let warm to RT. The solvent was removed and material was used without further purification. MS: cal'd 209 (MH+), exp 209 (MH+).

reactant | diisopropylchlorophosphine | 12.57 mmol, 2 mL | C(C)(C)P(Cl)C(C)C | C6H14ClP
reactant | 4-tolylmagnesium bromide | 12.57 mmol, 12.57 mL | C1(=CC=C(C=C1)[Mg]Br)C
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | Diisopropyl-p-tolyl-phosphane | C(C)(C)P(C1=CC=C(C=C1)C)C(C)C | C13H21P
